US08809372B2
A stirred solution of 4-fluorobenzohydrazide (4.2 g, 27.2 mmol) in triethylorthoformate (27 mL) was heated at 140° C. for 5 h. The reaction was evaporated under reduced pressure. The crude was purified by silica gel column chromatography (100-200 mesh; using 12% ethyl acetate in hexane) to afford 2-(4-fluorophenyl)-1,3,4-oxadiazole [Polshettiwar, Tetrahedron Letters, 49:879-883 (2008)] as off-white solid (2.5 g, 57% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.46 (s, 1H), 8.08 (dd, 2H), 7.19 (dd, 2H); LC-MS m/z calculated for [M+H]+ 165.04, found 165.00.

reactant | 4-fluorobenzohydrazide | 27.2 mmol, 4.2 g | FC1=CC=C(C(=O)NN)C=C1 | C7H7FN2O
reactant | triethylorthoformate | 27 mL | C(C)OC(OCC)OCC | C7H16O3
product | 2-(4-fluorophenyl)-1,3,4-oxadiazole | 2.5 g, 57% yield | FC1=CC=C(C=C1)C=1OC=NN1 | C8H5FN2O
